Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Pertinent Results:
IMAGING:
=======
MR ___  ___. Right lateral disc protrusion at L4-5 contacting the exiting 
right L4 root
in the foramen.
2. No cord or cauda equina compression.  No epidural collection.
3. Mild degenerative changes are noted in the cervical and 
lumbar spine.
PREVALENCE:  Prevalence of lumbar degenerative disk disease in 
subjects
without low back pain:
Overall evidence of disk degeneration 91% (decreased T2 signal, 
height loss,
bulge)
T2 signal loss 83%
Disk height loss 58%
Disk protrusion 32%
Annular fissure 38%
Jarvik, et all.  Spine ___ 26(10):___
Lumbar spinal stenosis prevalence- present in approximately 20% 
of
asymptomatic adults over ___ years old
___, et al, Spine Journal ___ 9 (7):___
 
These findings are so common in asymptomatic persons that they 
must be
interpreted with caution and in context of the clinical 
situation.
 
SIGNIFICANT LABS: 
===============
___ 05:47PM BLOOD WBC-9.9 RBC-5.25* Hgb-13.7 Hct-42.5 
MCV-81* MCH-26.1 MCHC-32.2 RDW-14.9 RDWSD-43.9 Plt ___
___ 05:47PM BLOOD Glucose-125* UreaN-20 Creat-0.7 Na-140 
K-3.9 Cl-104 HCO3-24 AnGap-___ with relapsing polychondritis presented with low back pain 
and recent fever.

# Low back pain: 
Patient presented with acute on chronic low back pain in setting 
of recent fever. MRI without spinal abscess or cord compression 
but did note right lateral disc protrusion at L4-5 contacting 
the exiting right L4 root in the foramen. Patient neurologically 
intact. She was evaluated by Spine Surgery who did not feel that 
surgery was indicated and recommendation was for conservative 
management. She was treated with NSAIDs and antispasmodics and 
her pain improved significantly. Her PCP's office was notified 
to provide a referral to outpatient physical therapy. Should her 
symptoms fail to improve fully, she should consider epidural 
steroid injections. 

# Fever:  
Pt with recent cough and rash prior to admission. Rash had fully 
resolved prior to admission and patient without any documented 
fevers (albeit received antipyretics). Flu swab negative. 
Suspect self-limiting viral illness. 

# Relapsing polychondritis:  
Pt was recently on prednisone and azathioprine, but completed 
both of these on ___. 

TRANSITIONAL ISSUES: 
=================
[] Recommend outpatient physical therapy for acute on chronic 
back pain. Should her symptoms not improve, she should consider 
epidural steroid injections. 

> 30 mins spent coordinating discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tizanidine 2 mg PO TID 
2. Ibuprofen 600 mg PO Q8H 
3. Atorvastatin 10 mg PO QPM 
4. Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB  
3.  Atorvastatin 10 mg PO QPM  
4.  Ibuprofen 600 mg PO Q8H  
5.  Tizanidine 2 mg PO TID 
RX *tizanidine 2 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# acute back pain secondary to L4-5 disc herniation. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted with severe back pain 
secondary to a herniated disc. You were seen by the spine 
doctors who did NOT think that surgery was necessary at this 
time. We suspect that your symptoms will improve with 
conservative management that includes NSAIDs and physical 
therapy. If this is not effective, then steroid injections may 
also be helpful, but this can be discussed with your primary 
care doctor on follow up. 

Please continue to take all medications as prescribed and follow 
up with all appointments as detailed below. We recommend to 
remain hydrated while you are taking NSAIDs, such as naproxen or 
ibuprofen. These medications are the cornerstone of treatment 
for a herniation. You can take two tabs of 220mg naproxen twice 
a day OR 600-800mg ibuprofen up to three times a day as needed. 
Do NOT take both of these medications together. You CAN take 
either of these with tylenol. You are also being prescribed a 
muscle relaxant to take only as needed. Do not drive until you 
know how this medication will effect you. Lastly, your PCP, ___. 
___ be notified to coordinate arranging physical 
therapy, which is very effective for herniated discs. 

We wish you the best!

Sincerely, 

Your ___ Team 
 
Followup Instructions:
___